US07851626B2
2-Ethoxy-4-methoxybenzoic acid (9.5 g, 48.5 mmol) was added in portions to cold chlorosulfonic acid (60 mL, Aldrich) stirring at −3 to 0° C. (ice-acetone bath) over 15 min and warmed slowly to room temperature and heated to 60-65° C. for 40 min. The resulting dark solution was carefully poured with stirring into a large excess of ice and then 500 mL of dichloromethane was added. After stirring for 15 min, the layers were separated and the aqueous layer was extracted with dichloromethane (3×250 mL). The organic layers were washed with brine and dried over anhydrous magnesium sulfate. The solids were filtered off, and the filtrate was evaporated to a low volume. This was triturated with ether/hexane and filtered to give 5-chlorosulfonyl-2-ethoxy-4-methoxybenzoic acid as a colorless solid (13.4 g, 94%).

reactant | 2-Ethoxy-4-methoxybenzoic acid | 48.5 mmol, 9.5 g | C(C)OC1=C(C(=O)O)C=CC(=C1)OC | C10H12O4
reactant | chlorosulfonic acid | 60 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 5-chlorosulfonyl-2-ethoxy-4-methoxybenzoic acid | 13.4 g, 94% | ClS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OCC)OC | C10H11ClO6S
